US07265149B2
f] {6-[5-(4-Trifluoromethyl-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid
To a solution of {6-[5-(4-trifluoromethyl-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester (5 mg, 10 μmol) in THF/methanol 2/1 (750 μl) was added 1 N aqueous LiOH solution (600 μl). The reaction mixture was stirred for 14 h at ambient temperature and concentrated under reduced pressure. The residue was dissolved in 1 N HCl/ice water 1/1 and ethyl acetate, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give the title compound (3 mg, 7 μmol, 68%) as brown crystals.

reactant | {6-[5-(4-trifluoromethyl-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | 10 μmol, 5 mg | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC1=NNC(=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H24F3N3O3
reactant | LiOH | 1 N, 600 μl | [Li+].[OH-]
solvent | THF methanol | 750 μl | C1CCOC1.CO
product | {6-[5-(4-Trifluoromethyl-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | 7 μmol, 3 mg, 68% | FC(C1=CC=C(C=C1)C1=CC(=NN1)COC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C21H16F3N3O3
